US07521425B2
Step 4: 3-{2-[2-(2-{4-[4-(3,5-Dioxo-hexyl)-phenylcarbamoyl]-butyrylamino}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester
A solution of 4-[4-(3,5-dioxo-hexyl)-phenylcarbamoyl]-butyric acid 2,5-dioxo-pyrrolidin-1-yl ester (1.5 g, 3.6 mmol), 3-{2-[2-(2-amino-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester (1.0 g, 3.6 mmol) and DIEA (1.3 μL, 7.2 mmol) in CH2Cl2 (10 mL) was stirred at rt overnight. The solvent was removed in vacuo and the residual oil purified using column chromatography EtOAc/MeOH (95:5) to give the title compound as a transparent oil, (M+1)=579.

reactant | 4-[4-(3,5-dioxo-hexyl)-phenylcarbamoyl]-butyric acid 2,5-dioxo-pyrrolidin-1-yl ester | 3.6 mmol, 1.5 g | O=C1N(C(CC1)=O)OC(CCCC(NC1=CC=C(C=C1)CCC(CC(C)=O)=O)=O)=O | C21H24N2O7
reactant | 3-{2-[2-(2-amino-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester | 3.6 mmol, 1.0 g | C(C)(C)(C)OC(CCOCCOCCOCCN)=O | C13H27NO5
reactant | DIEA | 7.2 mmol, 1.3 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{2-[2-(2-{4-[4-(3,5-Dioxo-hexyl)-phenylcarbamoyl]-butyrylamino}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCOCCOCCOCCNC(CCCC(NC1=CC=C(C=C1)CCC(CC(C)=O)=O)=O)=O)=O | C30H46N2O9
